US06455528B1
(2) N-(4-Hydroxymethyl-2-nitrophenylmethyl)acetamide
A solution of methyl 4-acetamidomethyl-3-nitrobenzoate (20 g) and lithium borohydride (1.7 g) in tetrahydrofuran (200 ml) was stirred at 40-50° C. for 2.5 hr. The reaction mixture was poured into water (150 ml) and extracted with ethylacetate (100 ml×3). The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a yellow oil (15.5 g). The obtained yellow oil was purified by silica gel column chromatography (developing solvent; chloroform:methanol=9:1) to give a pale-brown solid (13.5 g). The obtained solid was crystallized from ethyl acetate/ethanol/hexane (30:2:5) to give the title compound (12 g) as yellow white crystals.

reactant | methyl 4-acetamidomethyl-3-nitrobenzoate | 20 g | C(C)(=O)NCC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C11H12N2O5
reactant | lithium borohydride | 1.7 g | [BH4-].[Li+]
reactant | water | 150 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-(4-Hydroxymethyl-2-nitrophenylmethyl)acetamide | 15.5 g | OCC1=CC(=C(C=C1)CNC(C)=O)[N+](=O)[O-] | C10H12N2O4
